US06762197B2
6.29 g (21.3 mmol) of 5-hydroxymethyl-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one, 3.53 g (25.6 mmol) of potassium carbonate and 3.63 g (25.6 mmol) of methyl iodide were stirred for 4 hours at 60° C. in 38 mol of anhydrous N,N-dimethylformamide. To the reaction solution was added 200 ml of a 5 wt % hydrochloric acid aqueous solution, and this was extracted with ethyl acetate. The organic layer was washed with water, 5 wt % sodium bicarbonate solution, then, saturated saline, dried over anhydrous magnesium sulfate, then, concentrated. The residuie was subjected to silica gel column chromatography (eluant: hexane/ethyl acetate=1/1 (v/v), then, ethyl acetate), to obtain 6.52 g (21.2 mmol) of 5-hydroxymethyl-2-methyl-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one.

reactant | 5-hydroxymethyl-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 21.3 mmol, 6.29 g | OCC=1N(C(NN1)=O)CC1=C(C=CC(=C1)C1=CC=CC=C1)C | C17H17N3O2
reactant | potassium carbonate | 25.6 mmol, 3.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 25.6 mmol, 3.63 g | CI | CH3I
reactant | N,N-dimethylformamide | 38 mol | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-hydroxymethyl-2-methyl-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 21.2 mmol, 6.52 g | OCC=1N(C(N(N1)C)=O)CC1=C(C=CC(=C1)C1=CC=CC=C1)C | C18H19N3O2
